US06461997B1
To a solution of 57 g (0.17 mol) 3-(bromodifluoromethylthio)-1-(N,N-diethylcarbamoyl)-1,2,4-triazole, prepared as above, in 100 ml acetonitrile were sequentially added 100 ml carbon tetrachloride, 200 ml water and 11 1.23 g (0.52 mol) sodium periodate. To the resulting suspension was added 20 mg (ca 5 mol %) ruthenium trichloride hydrate and the suspension was then stirred at room temperature for 24 h. The reaction mixture was then diluted with 500 ml water, extracted with dichloromethane (3×200 ml) and the combined resulting organic layers were sequentially washed with water, saturated sodium bicarbonate solution and brine. The dichloromethane solution was dried over MgSO4 and evaporated. Preparative LC purification of the residue with 40% ethyl acetate-hexane gave 53.31 g (85% yield) of the desired 3-(bromodifluoromethylsulfonyl)-1-(N,N-diethylcarbamoyl)-1,2,4-triazole as a white solid with melting point 74-75° C.

reactant | 3-(bromodifluoromethylthio)-1-(N,N-diethylcarbamoyl)-1,2,4-triazole | 0.17 mol, 57 g | BrC(SC1=NN(C=N1)C(N(CC)CC)=O)(F)F | C8H11BrF2N4OS
reactant | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 500 ml | O | H2O
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
catalyst | ruthenium trichloride hydrate | 20 mg | O.[Ru](Cl)(Cl)Cl
product | 3-(bromodifluoromethylsulfonyl)-1-(N,N-diethylcarbamoyl)-1,2,4-triazole | 53.31 g, 85% yield | BrC(S(=O)(=O)C1=NN(C=N1)C(N(CC)CC)=O)(F)F | C8H11BrF2N4O3S
